US04085114
. . . . To a solution of sodium hydroxide (0.7 g, 17 mmole) in methanol (40 ml) is gradually added 3-methyl-4-hydroxy-1,2-benzisoxazole (15 mmole) and then epichlorohydrin (20 ml). The mixture is stirred at room temperature for 18 hours. After evaporation of methanol and excess epichlorohydrin under reduced pressure, the residue is extracted with chloroform. The extract is washed with a dilute solution of sodium hydroxide and water, dried over magnesium sulfate, and evaporated. The residue is subjected to column chromatography using silica gel and eluted with chloroform. The solvent is evaporated. The residue is recrystallized from isopropyl ether to give 3-methyl-4-(2,3-epoxypropoxy)-1,2-benzisoxazole as colorless prisms melting at 51°-53° C (yield 95.0%).

reactant | sodium hydroxide | 17 mmole, 0.7 g | [OH-].[Na+]
reactant | 3-methyl-4-hydroxy-1,2-benzisoxazole | 15 mmole | CC1=NOC2=C1C(=CC=C2)O | C8H7NO2
reactant | epichlorohydrin | 20 ml | C(Cl)C1CO1 | C3H5ClO
solvent | methanol | 40 ml | CO | CH4O
product | 3-methyl-4-(2,3-epoxypropoxy)-1,2-benzisoxazole | yield 95.0% | CC1=NOC2=C1C(=CC=C2)OCC2CO2 | C11H11NO3
